Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Persistent RLE weakness
 
Major Surgical or Invasive Procedure:
Spinal Angiogram

 
History of Present Illness:
___ yo M hx lumbar spinal dural AV fistula s/o embo and resection 
at ___ ___ yr ago presents with persistent right ___ weakness
 
Past Medical History:
Spinal Dural AV Fistula
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge: RLE ___, otherwise neurologically intact
 
Brief Hospital Course:
Patient presented for evaluation of persistent RLE weakness and 
underwent a spinal angiogram to evalaute his known dural AV 
fistula. The patient tolerated the procedure well. He remained 
stable on the floor overnight and on the afternoon of ___ he 
was deemed fit for discharge. He was given prescriptiosn for 
required medications, instructions for followup, and all 
questions were answered prior to discharge. 
 
Medications on Admission:
___, keppra, lisinopril, lopressor, sertraline
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. LeVETiracetam 500 mg PO BID 
5. Lisinopril 5 mg PO DAILY 
6. Metoprolol Tartrate 75 mg PO BID 
7. Sertraline 25 mg PO DAILY 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6hours Disp #*45 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar spinal Dural AV Fistula

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___